US06689800B2
Preparation of Intermediate [2-(4-Oxazol-4-yl-phenoxy)-ethyl]-carbamic acid benzyl ester (l-3):
A stirred mixture of 290.0 g (1.80 mol) of 4-oxazol-4-yl-phenol (H. Jones, et al., J. Med. Chem., 21, 1110 (1978)), 737.7 g (2.70 mol) of methanesulfonic acid 2-benzyloxycarbonylamino-ethyl ester, and 746.0 g (5.40 mol) of potassium carbonate in 4.6 l of dry dimethylsulfoxide was heated to about 85° C. An additional 500 ml of dimethylsulfoxide was added and the viscous slurry was stirred at about 80° C. for about an additional two hours. The resulting mixture was cooled to about 50° C., poured into about 1 l of stirred ice water, slurried for about one hour, and then filtered. The wet filter cake was washed with water (2×1 l), and then partially dried by aspiration under vacuum for about two hours. The moist solid was charged into a round-bottomed flask, 6 l of methanol was added, and the mixture was then warmed to about 60° C. where 3 l of water was added. The heating source was removed, the mixture was stirred for about eighteen hours, and then filtered. The filter cake was washed with 2:1 methanol/water (v/v; 2×500 ml), and then dried under vacuum at about 40° C. for about eighteen hours. The title compound (389.5 g, 64% yield) was obtained as a beige powder.

reactant | 4-oxazol-4-yl-phenol | 1.80 mol, 290.0 g | O1C=NC(=C1)C1=CC=C(C=C1)O | C9H7NO2
reactant | methanesulfonic acid 2-benzyloxycarbonylamino-ethyl ester | 2.70 mol, 737.7 g | C(C1=CC=CC=C1)OC(=O)NCCOS(=O)(=O)C | C11H15NO5S
reactant | potassium carbonate | 5.40 mol, 746.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 4.6 l | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 500 ml | CS(=O)C | C2H6OS
product | [2-(4-Oxazol-4-yl-phenoxy)-ethyl]-carbamic acid benzyl ester | 389.5 g, 64% yield | C(C1=CC=CC=C1)OC(NCCOC1=CC=C(C=C1)C=1N=COC1)=O | C19H18N2O4
